// File: DFFSNQX1.spi
// Created: Sun Apr 12 08:32:01 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/DFFSNQX1.pex.spice"
subckt DFFSNQX1 (  CLK SN Q VDD D GND )
// 
// GND	GND
// D	D
// VDD	VDD
// Q	Q
// SN	SN
// CLK	CLK
M0_noxref ( N_GND_M0_noxref_d N_D_M0_noxref_g N_noxref_15_M0_noxref_s \
 noxref_241 ) NMOS l=0.163119 w=2.35104 m=1
M1_noxref ( N_noxref_1_M1_noxref_d N_noxref_4_M1_noxref_g \
 N_noxref_15_M0_noxref_s noxref_241 ) NMOS l=0.163346 w=2.31104 m=1
M2_noxref ( N_GND_M2_noxref_d N_noxref_1_M2_noxref_g N_noxref_16_M2_noxref_s \
 noxref_241 ) NMOS l=0.163119 w=2.35104 m=1
M3_noxref ( N_noxref_11_M3_noxref_d N_CLK_M3_noxref_g N_noxref_16_M2_noxref_s \
 noxref_241 ) NMOS l=0.160516 w=2.29447 m=1
M4_noxref ( N_noxref_4_M4_noxref_d N_noxref_7_M4_noxref_g \
 N_noxref_11_M4_noxref_s noxref_241 ) NMOS l=0.163346 w=2.31104 m=1
M5_noxref ( N_GND_M5_noxref_d N_noxref_1_M5_noxref_g N_noxref_17_M5_noxref_s \
 noxref_241 ) NMOS l=0.163119 w=2.35104 m=1
M6_noxref ( N_noxref_12_M6_noxref_d N_SN_M6_noxref_g N_noxref_17_M5_noxref_s \
 noxref_241 ) NMOS l=0.160516 w=2.29447 m=1
M7_noxref ( N_noxref_2_M7_noxref_d N_noxref_7_M7_noxref_g \
 N_noxref_12_M7_noxref_s noxref_241 ) NMOS l=0.163346 w=2.31104 m=1
M8_noxref ( N_GND_M8_noxref_d N_noxref_2_M8_noxref_g N_noxref_18_M8_noxref_s \
 noxref_241 ) NMOS l=0.163119 w=2.35104 m=1
M9_noxref ( N_noxref_7_M9_noxref_d N_CLK_M9_noxref_g N_noxref_18_M8_noxref_s \
 noxref_241 ) NMOS l=0.163346 w=2.31104 m=1
M10_noxref ( N_GND_M10_noxref_d N_noxref_4_M10_noxref_g \
 N_noxref_19_M10_noxref_s noxref_241 ) NMOS l=0.163119 w=2.35104 m=1
M11_noxref ( N_noxref_5_M11_noxref_d N_Q_M11_noxref_g N_noxref_19_M10_noxref_s \
 noxref_241 ) NMOS l=0.163346 w=2.31104 m=1
M12_noxref ( N_GND_M12_noxref_d N_noxref_5_M12_noxref_g \
 N_noxref_20_M12_noxref_s noxref_241 ) NMOS l=0.163119 w=2.35104 m=1
M13_noxref ( N_noxref_14_M13_noxref_d N_SN_M13_noxref_g \
 N_noxref_20_M12_noxref_s noxref_241 ) NMOS l=0.160516 w=2.29447 m=1
M14_noxref ( N_Q_M14_noxref_d N_noxref_7_M14_noxref_g N_noxref_14_M14_noxref_s \
 noxref_241 ) NMOS l=0.163346 w=2.31104 m=1
M15_noxref ( N_noxref_1_M15_noxref_d N_D_M15_noxref_g N_VDD_M15_noxref_s \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M16_noxref ( N_VDD_M16_noxref_d N_D_M16_noxref_g N_noxref_1_M15_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M17_noxref ( N_noxref_1_M17_noxref_d N_noxref_4_M17_noxref_g \
 N_VDD_M16_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M18_noxref ( N_VDD_M18_noxref_d N_noxref_4_M18_noxref_g \
 N_noxref_1_M17_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M19_noxref ( N_noxref_4_M19_noxref_d N_noxref_1_M19_noxref_g \
 N_VDD_M19_noxref_s noxref_239 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M20_noxref ( N_VDD_M20_noxref_d N_noxref_1_M20_noxref_g \
 N_noxref_4_M19_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M21_noxref ( N_noxref_4_M21_noxref_d N_CLK_M21_noxref_g N_VDD_M20_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M22_noxref ( N_VDD_M22_noxref_d N_CLK_M22_noxref_g N_noxref_4_M21_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M23_noxref ( N_noxref_4_M23_noxref_d N_noxref_7_M23_noxref_g \
 N_VDD_M22_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M24_noxref ( N_VDD_M24_noxref_d N_noxref_7_M24_noxref_g \
 N_noxref_4_M23_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M25_noxref ( N_noxref_2_M25_noxref_d N_noxref_1_M25_noxref_g \
 N_VDD_M25_noxref_s noxref_239 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M26_noxref ( N_VDD_M26_noxref_d N_noxref_1_M26_noxref_g \
 N_noxref_2_M25_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M27_noxref ( N_noxref_2_M27_noxref_d N_SN_M27_noxref_g N_VDD_M26_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M28_noxref ( N_VDD_M28_noxref_d N_SN_M28_noxref_g N_noxref_2_M27_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M29_noxref ( N_noxref_2_M29_noxref_d N_noxref_7_M29_noxref_g \
 N_VDD_M28_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M30_noxref ( N_VDD_M30_noxref_d N_noxref_7_M30_noxref_g \
 N_noxref_2_M29_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M31_noxref ( N_noxref_7_M31_noxref_d N_noxref_2_M31_noxref_g \
 N_VDD_M31_noxref_s noxref_239 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M32_noxref ( N_VDD_M32_noxref_d N_noxref_2_M32_noxref_g \
 N_noxref_7_M31_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M33_noxref ( N_noxref_7_M33_noxref_d N_CLK_M33_noxref_g N_VDD_M32_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M34_noxref ( N_VDD_M34_noxref_d N_CLK_M34_noxref_g N_noxref_7_M33_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M35_noxref ( N_noxref_5_M35_noxref_d N_noxref_4_M35_noxref_g \
 N_VDD_M35_noxref_s noxref_239 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M36_noxref ( N_VDD_M36_noxref_d N_noxref_4_M36_noxref_g \
 N_noxref_5_M35_noxref_d noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M37_noxref ( N_noxref_5_M37_noxref_d N_Q_M37_noxref_g N_VDD_M36_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M38_noxref ( N_VDD_M38_noxref_d N_Q_M38_noxref_g N_noxref_5_M37_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M39_noxref ( N_Q_M39_noxref_d N_noxref_5_M39_noxref_g N_VDD_M39_noxref_s \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M40_noxref ( N_VDD_M40_noxref_d N_noxref_5_M40_noxref_g N_Q_M39_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M41_noxref ( N_Q_M41_noxref_d N_SN_M41_noxref_g N_VDD_M40_noxref_d noxref_239 \
 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M42_noxref ( N_VDD_M42_noxref_d N_SN_M42_noxref_g N_Q_M41_noxref_d noxref_239 \
 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M43_noxref ( N_Q_M43_noxref_d N_noxref_7_M43_noxref_g N_VDD_M42_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M44_noxref ( N_VDD_M44_noxref_d N_noxref_7_M44_noxref_g N_Q_M43_noxref_d \
 noxref_239 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/DFFSNQX1.pxi.spice"
// 
ends DFFSNQX1
// 
// 
